* Z:\home\dmytro\Documents\projects\PicoLasDriver\HW\simulation\Draft1.asc
I1 N003 0 PULSE(0u 90u 0.1m 0.1u 0.1u 1u)
R1 N004 N003 30k
C1 N004 N003 10p
V1 N001 0 5
R2 N002 0 200
C2 N002 0 100n
R3 N001 N002 10k
XU2 N002 N003 N001 0 N004 OPA2727
.tran 0 0.001 0 0.00001 startup
.lib Z:\home\dmytro\Documents\projects\PicoLasDriver\HW\simulation\lib\OPA2727_PSPICE_AIO\OPA2727.LIB
.backanno
.end
